US04857530
N-[2-(Diethylamino)ethyl]-4-(2-propynylamino)benzamide
To a refluxing solution of 4-aminobenzoic acid, 5 g (0.036 mol), and triethylamine, 11.1 g (0.11 mol), in diethyl ether is added dropwise thionyl chloride, 5.14 g (0.043 mol). After one hour, N,N-diethylethylenediamine, 6.28 g (0.054 mol), is added and the reaction is refluxed for another eight hours or until thin layer chromatography (TLC) indicates amide formation is complete. The solution is cooled to room temperature and filtered. The filtrate is washed with water and the organic layer is separated, dried (sodium sulfate), and filtered. The filtrate is concentrated in vacuo and the residue is dissolved in toluene. To this solution is added an 80% by weight solution of propargyl bromide in toluene, 10.7 g (0.072 mol), and triethylamine, 7.27 g (0.072 mol). The reaction is refluxed for twenty-four hours. Aqueous workup gives a crude mixture of mono and dialkylated benzamides which are separated by chromatography over silica gel to give the desired product.

reactant | 4-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-diethylethylenediamine | C(C)N(CCN)CC | C6H16N2
reactant | diethyl ether | C(C)OCC | C4H10O
product | N-[2-(Diethylamino)ethyl]-4-(2-propynylamino)benzamide | C(C)N(CCNC(C1=CC=C(C=C1)NCC#C)=O)CC | C16H23N3O
